US05510345
25 g (136.3 mmoles) of 2,4,6-trichloropyrimidine are dropwise added to a mixture of 23.84 g (273.5 mmoles) of 1-amino-2,2-dimethylpropane and 200 ml of tetrahydrofuran at a temperature between 10° C. and 15° C. while stirring and cooling. Thereafter, the reaction mixture is stirred at room temperature for an additional 30 minutes, then evaporated. After distributing the evaporation residue between 300 ml of chloroform and 50 ml of 10% sodium hydroxide solution, the organic phase is separated, washed 4 times with 100 ml of water each, then dried and evaporated. The evaporation residue is subjected to chromatography on a silica gel column. By using a 19:1 mixture of hexane and ethyl acetate, 4,6-dichloro-2-(2,2-dimethylpropylamino)pyrimidine is obtained, which is recrystallized from a mixture of ether and hexane to obtain a yield of 13.60 g (42.6%), m.p.: 63°-66° C.

reactant | 2,4,6-trichloropyrimidine | 136.3 mmoles, 25 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | 1-amino-2,2-dimethylpropane | 273.5 mmoles, 23.84 g | NCC(C)(C)C | C5H13N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4,6-dichloro-2-(2,2-dimethylpropylamino)pyrimidine | ClC1=NC(=NC(=C1)Cl)NCC(C)(C)C | C9H13Cl2N3
